US09334290B2
A mixture of 4-bromo-7-(ethoxycarbonyl)-3-fluoro-9H-carbazole-1-carboxylic acid (2.39 g, 6.29 mmol), EDC (1.81 g, 9.43 mmol) and HOBT (1.44 g, 9.43 mmol) in THF (30 mL) and DCM (5 mL) was stirred at room temperature for 20 min Ammonium hydroxide (0.367 mL, 9.43 mmol) was added, and the mixture was stirred at room temperature for 4 h. The mixture was diluted with EtOAc, washed twice with saturated aqueous NaHCO3, then with brine. The aqueous layers were extracted with EtOAc, and the combined organic layers were dried and concentrated. The residue was triturated with MeOH with sonication to provide ethyl 5-bromo-8-carbamoyl-6-fluoro-9H-carbazole-2-carboxylate as a pale yellow solid (2.26 g, 95% yield). Mass spectrum m/z 379, 381 (M+H)+. 1H NMR (500 MHz, DMSO-d6) δ 12.02 (s, 1H), 8.70 (d, J=8.3 Hz, 1H), 8.51 (d, J=1.1 Hz, 1H), 8.29 (br. s., 1H), 8.10 (d, J=10.3 Hz, 1H), 7.87 (dd, J=8.5, 1.5 Hz, 1H), 7.74 (br. s., 1H), 4.37 (q, J=6.9 Hz, 2H), and 1.37 (t, J=7.1 Hz, 3H). 1H NMR (500 MHz, MeOH-d4) δ 8.77 (d, J=8.2 Hz, 1H), 8.36 (d, J=0.9 Hz, 1H), 7.83 (d, J=8.2 Hz, 1H), 7.46 (d, J=8.2 Hz, 1H), 4.12 (q, J=7.0 Hz, 2H), 1.58-1.36 (m, 4H), and 1.26 (t, J=7.2 Hz, 3H).

reactant | 4-bromo-7-(ethoxycarbonyl)-3-fluoro-9H-carbazole-1-carboxylic acid | 6.29 mmol, 2.39 g | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)C(=O)OCC)C(=O)O)F | C16H11BrFNO4
reactant | EDC | 9.43 mmol, 1.81 g
reactant | HOBT | 9.43 mmol, 1.44 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ammonium hydroxide | 9.43 mmol, 0.367 mL | [OH-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 5-bromo-8-carbamoyl-6-fluoro-9H-carbazole-2-carboxylate | 2.26 g, 95% yield | BrC1=C2C=3C=CC(=CC3NC2=C(C=C1F)C(N)=O)C(=O)OCC | C16H12BrFN2O3
